US04289777
(C) 1,4-DIHYDRO-7-HYDROXY-1-METHYL-4-QUINOLONE-3-CARBOXYLIC ACID
5.83 g. (25 mmol) of 1,4-dihydro-7-methoxy-1-methyl-4-quinolone-3-carboxylic acid is refluxed for 4 hours with 65 ml. of hydrobromic acid. The mixture is poured into water; the solid product is filtered off and recrystallized from acetic acid.

reactant | 1,4-dihydro-7-methoxy-1-methyl-4-quinolone-3-carboxylic acid | 25 mmol | COC1=CC=C2C(C(=CN(C2=C1)C)C(=O)O)=O | C12H11NO4
reactant | hydrobromic acid | Br | BrH
solvent | water | O | H2O
product | 1,4-DIHYDRO-7-HYDROXY-1-METHYL-4-QUINOLONE-3-CARBOXYLIC ACID | OC1=CC=C2C(C(=CN(C2=C1)C)C(=O)O)=O | C11H9NO4
